US04645765
To a solution of 4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (100 mg) in methanol (5 ml) were added O-methylhydroxylamine hydrochloride (105 mg) and sodium bicarbonate (106 mg). The mixture was stirred for 1.5 hours at ambient temperature and evaporated in vacuo. The residue was subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform and methanol (4:1, v/v) to afford 6,9-dihydroxy-4-methoxyiminomethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (80 mg).

reactant | 4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 100 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)C=O)O)=O | C14H15N3O6
reactant | O-methylhydroxylamine hydrochloride | 105 mg | Cl.CON
reactant | sodium bicarbonate | 106 mg | C([O-])(O)=O.[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 6,9-dihydroxy-4-methoxyiminomethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 80 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)C=NOC)O)=O | C15H18N4O6
